US06048842
Potassium carbonate (414 g) is suspended in chloroform (1.3 l), and thereto is added dropwise water (29 ml) gradually. To the mixture are added tributylbenzylammonium chloride (37 g), 2',6'-dihydroxy-4'-methylacetophenone (100 g), and 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl bromide (419 g), and the mixture is stirred at room temperature for 27 hours. To the mixture is added water (21 ml), and the mixture is stirred for further 2.5 hours. The mixture is neutralized with 18% hydrochloric acid (about 500 ml) under ice-cooling. To the mixture are added 18% hydrochloric acid (about 200 ml) and water (500 ml), and the chloroform layer is separated, washed with water and a saturated aqueous sodium chloride solution, dried, and concentrated. To the residue is added methanol (400 ml), and the mixture is concentrated under reduced pressure to about a half volume thereof. To the resultant is added methanol (2 l), and the mixture is heated a little, and stirred under ice-cooling for 30 minutes. The precipitates are collected by filtration, and dried under reduced pressure to give 2'-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylacetophenone (239.75 g). The physicochemical properties of the compound are the same as those of the compound obtained in Reference Example 2.

reactant | Potassium carbonate | 414 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2',6'-dihydroxy-4'-methylacetophenone | 100 g | OC1=C(C(=CC(=C1)C)O)C(C)=O | C9H10O3
reactant | 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl bromide | 419 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
reactant | hydrochloric acid | about 500 ml | Cl | ClH
reactant | hydrochloric acid | about 200 ml | Cl | ClH
solvent | chloroform | 1.3 l | C(Cl)(Cl)Cl | CHCl3
catalyst | tributylbenzylammonium chloride | 37 g | [Cl-].C(CCC)[N+](CC1=CC=CC=C1)(CCCC)CCCC
solvent | water | 500 ml | O | H2O
solvent | water | 21 ml | O | H2O
solvent | water | 29 ml | O | H2O
product | 2'-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylacetophenone | 239.75 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C(C(=CC(=C1)C)O)C(C)=O | C23H28O12
